US08563505B2
TBAF (1.0M in THF, 19 mL, 19 mmol) was added to a solution of (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-methoxy-4-(3′-vinylbiphenyl-3-yl)pyrrolidine-1,2-dicarboxylate (2.3 g, 4.78 mmol) in THF (30 mL) and stirred at r.t. overnight. The reaction was diluted with EtOAc and washed with water and then brine. The organic layer was collected, dried over MgSO4, filtered and evaporated to give (2S,4R)-methyl 4-methoxy-4-(3′-vinylbiphenyl-3-yl)pyrrolidine-2-carboxylate (1.75 g, 5.19 mmol, 100% yield) as a yellow oil. LCMS: rt=1.42 min. [M-OMe]+=306; Phenomenex-Luna C-18 (5μ) (3.0×50 mm); Solvent A=10% acetonitrile—90% water—0.1% TFA, Solvent B=90% acetonitrile—10% water—0.1% TFA; gradient 0% to 100% solvent B over 2 min. and then hold for 1 min.; 4 mL/min; inj. vol.=5 uL; wavelength=220.

reactant | TBAF | 19 mmol, 1.0M, 19 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-methoxy-4-(3′-vinylbiphenyl-3-yl)pyrrolidine-1,2-dicarboxylate | 4.78 mmol, 2.3 g | CO[C@]1(C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC)C=1C=C(C=CC1)C1=CC(=CC=C1)C=C | C27H35NO5Si
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2S,4R)-methyl 4-methoxy-4-(3′-vinylbiphenyl-3-yl)pyrrolidine-2-carboxylate | 5.19 mmol, 1.75 g, 100% yield | CO[C@]1(C[C@H](NC1)C(=O)OC)C=1C=C(C=CC1)C1=CC(=CC=C1)C=C | C21H23NO3
